* HP Memristor SPICE Model  
* Created by Zdenek and Dalibor Biolek
.SUBCKT memristor Plus Minus PARAMS: Ron=1K Roff=100K Rinit=80K D=10N uv=10F p=1

* Differential Equation Modeling
Gx 0 x value={ I(Emem)*uv*Ron/D^2*f(V(x),p) }
Cx x 0 1 IC={(Roff-Rinit)/(Roff-Ron)}
Raux x 0 1T

* Resistive Port
Emem Plus aux value={-I(Emem)*V(x)*(Roff-Ron)}
Roff aux Minus {Roff}

* Flux and Charge Computation
* Eflux flux 0 value={SDT(V(Plus,Minus))}
* Echarge charge 0 value={SDT(I(Emem))}

* Joglekar Window Function
.func f(x,p) = {1 - (2*x - 1)^(2*p)}

.ENDS memristor


