* Testbench for Memristor Hysteresis
.include memristor.sub
V1 in 0 SIN(0 1.2 1)
Xmem in 0 memristor Ron=100 Roff=16000 Rinit=11000 D=10n uv=10f p=10
.tran 0.001 5
.control
run
plot V(in) I(V1)

.endc
.end

